US04714492
3.0 gms of 2,6-diphenyl-3-methoxycarbonyl-pyr-4-one, 33 mls of methanol, 13.3 mls of 40% aqueous methylamine and 2 mls of glacial acetic acid were mixed at room termperature. The next day the mixture was diluted with water. Filtration of the resulting suspension yielded 2.5 gms of methyl 2,6-diphenyl-1-methyl-4-oxonicotinate. Recrystallization from methanol provided material at 255°-7°.

reactant | 2,6-diphenyl-3-methoxycarbonyl-pyr-4-one | 3.0 gms | C1(=CC=CC=C1)C=1OC(=CC(C1C(=O)OC)=O)C1=CC=CC=C1 | C19H14O4
reactant | methanol | 33 mls | CO | CH4O
reactant | methylamine | 13.3 mls | CN | CH5N
reactant | acetic acid | 2 mls | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | methyl 2,6-diphenyl-1-methyl-4-oxonicotinate | 2.5 gms | C1(=CC=CC=C1)C1=C(C(=O)OC)C(C=C(N1C)C1=CC=CC=C1)=O | C20H17NO3
